US05932601
A solution of n-butyl lithium in hexane (1.6 M, 15.6 ml) was added dropwise, at -15° C., to a mixture of (1,3-dioxolan-2-ylmethyl)triphenylphosphonium bromide (10.74 g) and tetrahydrofuran (110 ml). The mixture was stirred for 1 hour at the same temperature, to which was added 3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzaldehyde (6.74 g). After being stirred for 4 hours at 50° C., the reaction mixture was poured into ice-water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed successively with 0.1 N HCl, water and a saturated saline solution, and dried (MgSO4), followed by distilling off the solvent. The residual oily product was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-hexane (1:2, v/v), was obtained 2-[2-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]vinyl]-1,3-dioxolane (4.84 g) as an oily product. This oily product (4.84 g) was dissolved in tetrahydrofuran (90 ml). To the solution was added palladium-carbon (5%, 50% wet, 1.8 g), which was subjected to catalytic hydrogenation at room temperature under 1 atmospheric pressure. The catalyst was filtered off, and the filtrate was concentrated. The resulting oily product was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-hexane (1:3, v/v), was obtained 2-[2-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]ethyl]-1,3-dioxolane (3.03 g, 37%), which was recrystallized from ethyl acetate-hexane to give colorless needles, m.p.90-91° C.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | (1,3-dioxolan-2-ylmethyl)triphenylphosphonium bromide | 10.74 g | [Br-].O1C(OCC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
reactant | 3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzaldehyde | 6.74 g | COC=1C=C(C=O)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C19H17NO4
solvent | hexane | 1.6 M, 15.6 ml | CCCCCC | C6H14
product | 2-[2-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]vinyl]-1,3-dioxolane | 4.84 g | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)C=CC1OCCO1 | C23H23NO5
